US07319099B2
(c) 1-[4-(5-Methyl-[1.3,4]oxadiazol-2-yl)-phenyl]-piperazine hydrochloride
Prepared in analogy to example 4.4 (b) from 4-(4-[1,3,4]Oxadiazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester and hydrochloric acid in dioxane. MS (m/e): 245.3 (MH+, 100%)

reactant | 4-(4-[1,3,4]Oxadiazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1OC=NN1 | C17H22N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(5-Methyl-[1.3,4]oxadiazol-2-yl)-phenyl]-piperazine hydrochloride | Cl.CC1=NN=C(O1)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C13H16N4O.ClH/c1-10-15-16-13(18-10)11-2-4-12(5-3-11)17-8-6-14-7-9-17;/h2-5,14H,6-9H2,1H3;1H
